US08012976B2
To a stirred mixture of 4-(diethoxymethyl)benzaldehyde (3.75 g, 18 mmol) and anhydrous sodium sulfate (21.3 g, 150 mmol) in anhydrous dichloromethane (300 mL) was added 4-aminoisobenzofuran-1(3H)-one (2.24 g, 15 mmol) at 0° C. After the addition, the mixture was stirred at room temperature for 6 days. The mixture was filtered and the cake was washed with dichloromethane (50 mL×3). The filtrate was concentrated to give crude product. The crude product was washed with petroleum ether to give 4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (4.3 g, yield 84%) as a light yellow solid. LC-MS (ESI) m/z: 340(M+1)+.

reactant | 4-(diethoxymethyl)benzaldehyde | 18 mmol, 3.75 g | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | sodium sulfate | 150 mmol, 21.3 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-aminoisobenzofuran-1(3H)-one | 15 mmol, 2.24 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 4.3 g, yield 84% | C(C)OC(C1=CC=C(C=NC2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
